US04126687
A solution of 7 parts of 5-chloro-1-[1-{3-[1,3-dihydro-3-(1-methylethenyl)-2-oxo-2H-benzimidazol-1-yl]-2-methylpropyl}-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one in 120 parts of ethanol is acidified with 2-propanol, previously saturated with gaseous hydrogen chloride. The whole is boiled for 5 minutes. The reaction mixture is evaporated and the residue is taken up in water. The mixture is alkalized with a concentrated ammonium hydroxide solution. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and ethanol. The product is filtered off and dried, yielding 1.3 parts (19.7%) of 5-chloro-1-{1-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-2-methylpropyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 244° C.

reactant | 5-chloro-1-[1-{3-[1,3-dihydro-3-(1-methylethenyl)-2-oxo-2H-benzimidazol-1-yl]-2-methylpropyl}-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CC(CN2C(N(C3=C2C=CC=C3)C(=C)C)=O)C)C=C1 | C26H30ClN5O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-chloro-1-{1-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-2-methylpropyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | 19.7% | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CC(CN2C(NC3=C2C=CC=C3)=O)C)C=C1 | C23H26ClN5O2
